US04810719
N-(4-Methylsulphinylphenyl)-1-phenyl-1H-pyrazol-3-amine
To a solution of N-(4-methylthiophenyl)-1-phenyl-1-H-pyrazol-3-amine (1.4 g) in dichloromethane (100 ml) at 0° was added a solution of 3-chloroperbenzoic acid (0.9 g) in dichloromethane (20 ml) and the mixture stirred and allowed to reach room temperature over 1 hour. The solution was washed with dilute sodium hydroxide solution, dried over magnesium sulphate, filtered and evaporated to an oil. The oil was dissolved in hot ether and gradual evaporation to a small volume gave the title compound as a colourless solid (1.2 g), collected by filtration, mp 123°-124°.

reactant | N-(4-methylthiophenyl)-1-phenyl-1-H-pyrazol-3-amine | 1.4 g | CSC1=CC=C(C=C1)NC1=NN(C=C1)C1=CC=CC=C1 | C16H15N3S
reactant | 3-chloroperbenzoic acid | 0.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(4-Methylsulphinylphenyl)-1-phenyl-1H-pyrazol-3-amine | 1.2 g | CS(=O)C1=CC=C(C=C1)NC1=NN(C=C1)C1=CC=CC=C1 | C16H15N3OS
